US07781478B2
2-[4-(2-Azidoethoxy)phenyl]-1-ethyl-6-methoxy-1H-indole-3-carbonitrile (410 mg, 1.14 mmol), prepared as in step A, above, is suspended in a solution of MeOH (20 mL) and concentrated HCl (500 μL). Pd/C (150 mg, 10%) is added, and this mixture is hydrogenated at 30 p.s.i. for 1 h. This is filtered and the filtrate is concentrated. The filtrate residue is partitioned between EtOAc and 0.5N NaOH. The organic layer is dried and concentrated. Purification by silica gel chromatography (10-30%, MeOH/CH2Cl2) yields 2-[4-(2-aminoethoxy)phenyl]-1-ethyl-6-methoxy-1H-indole-3-carbonitrile (298 mg, 78%), compound 267, as a white solid.

reactant | 2-[4-(2-Azidoethoxy)phenyl]-1-ethyl-6-methoxy-1H-indole-3-carbonitrile | 1.14 mmol, 410 mg | N(=[N+]=[N-])CCOC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OC)CC | C20H19N5O2
reactant | HCl | 500 μL | Cl | ClH
catalyst | Pd/C | 150 mg | [Pd] | Pd
solvent | MeOH | 20 mL | CO | CH4O
product | 2-[4-(2-aminoethoxy)phenyl]-1-ethyl-6-methoxy-1H-indole-3-carbonitrile | 298 mg, 78% | NCCOC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OC)CC | C20H21N3O2
